US09238640B2
Preparation of 2-(4-(4-(Isopropylamino)piperidin-1-yl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one
A solution of N-(1-(4-(5,7-dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)phenyl)piperidin-4-yl)-N-isopropylacetamide (0.130 g, 0.27 mmol) in 2 N HCl (8 mL) was heated to reflux and stirred overnight. The resulting solution was cooled to room temperature, basified with 2 N NaOH (pH 14), and extracted with CH2Cl2. The solution was concentrated in vacuo and the residue was purified by flash chromatography on silica gel, eluting with 30% to 100% of 92:7:1 CHCl3/MeOH/concentrated NH4OH in CH2Cl2, to afford the title compound (0.060 g, 52%). 1H NMR (300 MHz, DMSO-d6): δ 8.07 (d, J=9.0 Hz, 2H), 6.99 (d, J=9.1 Hz, 2H), 6.67 (s, 1H), 6.46 (s, 1H), 3.75-3.95 (m, 8H), 2.81-2.99 (m, 3H), 2.69-2.79 (m, 1H), 1.79-1.92 (m, 2H), 1.14-1.37 (m, 3H), 0.97 (d, J=6.1 Hz, 6H). ESI MS m/z 423 [M+H]+.

reactant | N-(1-(4-(5,7-dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)phenyl)piperidin-4-yl)-N-isopropylacetamide | 0.27 mmol, 0.130 g | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC=C(C=C1)N1CCC(CC1)N(C(C)=O)C(C)C)=O | C26H32N4O4
reactant | NaOH | 2 N, pH 14 | [OH-].[Na+]
solvent | HCl | 2 N, 8 mL | Cl | ClH
product | 2-(4-(4-(Isopropylamino)piperidin-1-yl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one | 0.060 g, 52% | C(C)(C)NC1CCN(CC1)C1=CC=C(C=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C24H30N4O3
